US08802850B2
2-(Propylthio)pyrimidine-4,6-diol
A solution of 2-mercaptopyrimidine-4,6-diol (25 g, 173.61 mmol, 1.00 equiv.), sodium hydroxide (15.8 g, 395.00 mmol, 2.27 equiv.), 1-methylpyrrolidin-3-one (50 mL), and 1-iodopropane (30.6 g, 180.00 mmol, 1.05 equiv.) dissolved in water (60 mL) was stirred at ambient temperature for about 48 hours. The pH value of the solution was adjusted to 2-3 by adding hydrochloric acid. The solids were then collected by filtration to give the product as an off-white solid (35 g; (crude)). 1H NMR (300 MHz, DMSO-d6) δ: 11.78 (b, 1H), 10.30 (b, 1H), 5.13 (s, 1H), 3.07 (t, J=7.2 Hz, 2H), 1.58-1.70 (m, 2H), 0.96 (t, J=7.2 Hz, 2H).

reactant | 2-mercaptopyrimidine-4,6-diol | 173.61 mmol, 25 g, 1.00 equiv. | SC1=NC(=CC(=N1)O)O | C4H4N2O2S
reactant | sodium hydroxide | 395.00 mmol, 15.8 g, 2.27 equiv. | [OH-].[Na+]
reactant | 1-methylpyrrolidin-3-one | 50 mL | CN1CC(CC1)=O | C5H9NO
reactant | 1-iodopropane | 180.00 mmol, 30.6 g, 1.05 equiv. | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | water | 60 mL | O | H2O
product | 2-(Propylthio)pyrimidine-4,6-diol | 35 g | C(CC)SC1=NC(=CC(=N1)O)O | C7H10N2O2S
